US05905076
A mixture of (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-acetoxy-azetidin-2-one (1.67 g, 3.95 mmole), 1,3-dibromo-2-propanol (689 mg, 3.16 mmole), and zinc acetate dihydrate (435 mg, 1.98 mmole) in a mixture of benzene (25 ml) and toluene (25 ml) was refluxed overnight using Dean-Stark water separator. After cooling, the reaction mixture was partitioned between ethyl acetate (200 ml), acetone (40 ml) and water (150 ml). The organic layer was washed with water, brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (4:3) as eluent and (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(1,3-dibromoprop-2-yl)oxy-azetidin-2-one was obtained (170 mg, 7% yield).

reactant | (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-acetoxy-azetidin-2-one | 3.95 mmole, 1.67 g | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@H]1OC(C)=O)=O | C23H25N3O5
reactant | 1,3-dibromo-2-propanol | 3.16 mmole, 689 mg | BrCC(CBr)O | C3H6Br2O
reactant | water | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc acetate dihydrate | 1.98 mmole, 435 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | (3S,4S)-3-{N-(3-phenylpropionoyl)-L-phenylalanyl}amino-4-(1,3-dibromoprop-2-yl)oxy-azetidin-2-one | 7% yield | C1(=CC=CC=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]1C(N[C@H]1OC(CBr)CBr)=O | C24H27Br2N3O4
